US08445480B2
4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-({4-isopropyl-1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide
To a solution of tert-butyl 4-({[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}methyl)-4-isopropylpiperidine-1-carboxylate (35 mg, 0.064 mmol) in dichloromethane was added trifluoroacetic acid. The mixture was stirred overnight at room temperature and then concentrated in vacuo. To the residue were added of methanol (2 ml), potassium carbonate (45 mg, 0.326 mmol) and 2-chloro-4-(trifluoromethyl)pyrimidine (16 μl, 0.133 mmol). The mixture was heated to 50° C. and stirred at this temperature for 4 h, at which point LC/MS analysis showed a peak at the desired molecular weight. The reaction mixture was concentrated and then purified by flash chromatography on a Biotage Horizon, 25S column, eluting with 1 column volume of 100% dichloromethane followed by a gradient of 0 to 100% ethyl acetate in dichloromethane over 10 column volumes to provide the title compound (33 mg, 0.056 mmol, 87% yield). Mass spectrum (ESI) 591.1 (M+1). 1H NMR (500 MHz, CDCl3): 8.47 (d, J=4.5 Hz, 1H), 8.33 (d, J=8.5 Hz, 1H), 7.93 (s, 1H), 7.92 (d, J=8.5 Hz, 2H), 7.51 (s, 1H), 6.71 (d, J=5.0 Hz, 1H), 6.18 (br t, J=6.0 Hz, 1H), 4.18 (m, 2H), 3.65-3.75 (m, 4H), 3.47 (septet, J=7.0 Hz, 1H), 1.89 (septet, J=6.5 Hz, 1H), 1.70 (m, 2H), 1.50-1.60 (m, 2H), 1.46 (d, J=6.5 Hz, 6H), 1.02 (d, J=7.0 Hz, 6H).

reactant | tert-butyl 4-({[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}methyl)-4-isopropylpiperidine-1-carboxylate | 0.064 mmol, 35 mg | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3(CCN(CC3)C(=O)OC(C)(C)C)C(C)C)C=C2)C1)C(C)C | C32H40N4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 0.326 mmol, 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.133 mmol, 16 μl | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | 4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-({4-isopropyl-1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide | 0.056 mmol, 33 mg, 87% yield | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3(CCN(CC3)C3=NC=CC(=N3)C(F)(F)F)C(C)C)C=C2)C1)C(C)C | C32H33F3N6O2
